US08497381B2
Step 1: [6-Cyclopropylmethoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid cyclopropylmethyl ester
Prepared according to the procedure described in Example 14, Step 3, using the following starting materials: [6-hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid and (bromomethyl)cyclopropane.

reactant | [6-hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | OC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)CC(=O)O | C26H22F3NO5
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | [6-Cyclopropylmethoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid cyclopropylmethyl ester | C1(CC1)COC(CC=1C=C(C(=CC1)OCC1CC1)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C34H34F3NO5
